US09415027B2
Step 4. 4-((7-Methoxy-1-oxo-4-(3-(trifluoromethyl)phenyl)-2,3-dihydro-1H-inden-2-yl)methyl)benzoic acid
Aqueous lithium hydroxide (1 N, 1.0 mL, 1.0 mmol) was added to a solution of methyl 7-methoxy-2-(4-(methoxycarbonyl)benzyl)-1-oxo-4-(3-(trifluoromethyl)phenyl)-2,3-dihydro-1H-indene-2-carboxylate (36 mg, 0.071 mmol) in THF (1.0 mL) in a scintillation vial. The vial was sealed under nitrogen and heated at 60° C. After 24 h, the reaction mixture was allowed to cool and the volatiles were evaporated under a stream of nitrogen. The residue was diluted with water (5.0 mL), acidified with 1 N aqueous HCl (2.0 mL) and extracted with EtOAc (3×20 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated in vacuo. The resulting crude residue was purified by combiflash (4 g column, CH2Cl2→20% MeOH/CH2Cl2, gradient). All fractions containing the desired product were combined and the resulting crude product was further purified by preparative thin layer chromatography (1000 μM thickness, EtOAc), to afford 8 mg (26%) of the title compound.

reactant | lithium hydroxide | 1.0 mmol, 1 N, 1.0 mL | [OH-].[Li+]
reactant | methyl 7-methoxy-2-(4-(methoxycarbonyl)benzyl)-1-oxo-4-(3-(trifluoromethyl)phenyl)-2,3-dihydro-1H-indene-2-carboxylate | 0.071 mmol, 36 mg | COC=1C=CC(=C2CC(C(C12)=O)(C(=O)OC)CC1=CC=C(C=C1)C(=O)OC)C1=CC(=CC=C1)C(F)(F)F | C28H23F3O6
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | 4-((7-Methoxy-1-oxo-4-(3-(trifluoromethyl)phenyl)-2,3-dihydro-1H-inden-2-yl)methyl)benzoic acid | 8 mg, 26% | COC=1C=CC(=C2CC(C(C12)=O)CC1=CC=C(C(=O)O)C=C1)C1=CC(=CC=C1)C(F)(F)F | C25H19F3O4
